US07259183B2
Preparation of (2,2-dimethyl-benzo[1,3]dioxol-5-ylmethyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine
The title compound was synthesized in analogy to (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine (described in example S53) using 84 mg of 2,2-dimethyl-benzo[1,3]dioxole-5-carbaldehyde (0.47 mmol), 89 mg of 2-(3-trifluoromethylphenyl)-ethylamine (0.47 mmol) and 27 mg of sodium borohydride (0.71 mmol). The isolated colorless semisolid (137 mg, 83%) was used in the following step without further purification. 1H NMR (CDCl3, 300 MHz): δ 1.66 (s, 6H), 2.89 (m, 4H), 3.70 (s, 2H), 6.68 (m, 3H), 7.39 (m, 2H), 7.46 (m, 2H).

reactant | (4-cyclopropylbenzyl)-[2-(4-fluoro-3-trifluoromethylphenyl)-ethyl]-amine | C1(CC1)C1=CC=C(CNCCC2=CC(=C(C=C2)F)C(F)(F)F)C=C1 | C19H19F4N
reactant | 2,2-dimethyl-benzo[1,3]dioxole-5-carbaldehyde | 0.47 mmol, 84 mg | CC1(OC2=C(O1)C=CC(=C2)C=O)C | C10H10O3
reactant | 2-(3-trifluoromethylphenyl)-ethylamine | 0.47 mmol, 89 mg | FC(C=1C=C(C=CC1)CCN)(F)F | C9H10F3N
reactant | sodium borohydride | 0.71 mmol, 27 mg | [BH4-].[Na+]
product | (2,2-dimethyl-benzo[1,3]dioxol-5-ylmethyl)-[2-(3-trifluoromethyl-phenyl)-ethyl]-amine | CC1(OC2=C(O1)C=CC(=C2)CNCCC2=CC(=CC=C2)C(F)(F)F)C | C19H20F3NO2
